US08277807B2
Di-prop-2-ynyl-carbamic acid benzyl ester
To a cooled (5° C.) solution of K2CO3 (4 Kg, 29.0 mol) in water (17.5 L) and toluene (12.5 L) was added dipropargylamine (2.50 Kg, 26.88 mol). Benzyloxychloroformate (4.8 Kg, 28.14 mol) was added at a rate such that T<10° C. The solution was stirred at 5° C. for 10 mins and then allowed to warm to RT. The aqueous phase was separated and the organic phase was washed with 0.2M HCl (12.5 L), sat NaHCO3 (13.5 L) and brine (17 L) and the resultant solution used in step 7 (assayed to contain 6.23 Kg, 102% based on an evaporated portion).

reactant | K2CO3 | 29.0 mol, 4 Kg | C(=O)([O-])[O-].[K+].[K+]
reactant | dipropargylamine | 26.88 mol, 2.50 Kg | C(C#C)NCC#C | C6H7N
reactant | toluene | 12.5 L | C1(=CC=CC=C1)C | C7H8
solvent | water | 17.5 L | O | H2O
product | Di-prop-2-ynyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC#C)CC#C)=O | C14H13NO2
